US04739050
2-Cyano-3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine (compound No. 10)
To a stirred solution of 2-chloro-3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine (10.0 g, compound No. 2) in dimethylsulfoxide (100 ml), sodium cyanide (8.0 g) is added. The mixture is stirred for 2 hours at room temperature, and poured into a mixture of ethyl acetate and water. The organic layer is washed with water, dried over anhydrous sodium sulfate, and concentrated in vacuo to give 6.9 g (71.0%) of the titled compound.

reactant | 2-chloro-3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine | ClC1(SC2=C(N(C1=O)C)C=CC=C2)C2=CC=C(C=C2)O | C15H12ClNO2S
reactant | sodium cyanide | 8.0 g | [C-]#N.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 2-Cyano-3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine | 6.9 g, 71.0% | C(#N)C1(SC2=C(N(C1=O)C)C=CC=C2)C2=CC=C(C=C2)O | C16H12N2O2S
